US09382253B2
3.5) Synthesis of 2,4-bis-biphenyl-3-yl-6-{3-[2-(3-ethyloxetan-3-yl-methoxy)ethyl]phenyl}-1,3,5-triazine (comonomer M5)
13.1 g (92 mmol) of 3-ethyl-3-vinyloxymethyloxetane and 11.3 g (60.8 mmol) of 9-BBN dimer are dissolved in 200 ml of toluene at room temperature under protective gas and stirred for 20 h. During the reaction, the suspension of 9-BBN slowly dissolves. 50 g (92 mmol) of 2,4-bis-biphenyl-3-yl-6-(3-bromophenyl)-1,3,5-triazine and 50 ml of a 1 M NaOH solution are subsequently added to the reaction solution. The reaction mixture is carefully degassed, 200 mg of tetrakistriphenylphosphino-palladium are added, and the mixture is heated under reflux for 20 h. The solution is cooled to room temperature, and the phases are separated. The aqueous phase is extracted three times with toluene, the combined organic phases are subsequently washed twice with water, dried over magnesium sulfate, filtered, and the solvent is stripped off in vacuo. The residue is recrystallised from ethanol/toluene 3:1, giving 54 g (89 mmol) (97%) of a white solid in a purity of 99:8%.

reactant | 3-ethyl-3-vinyloxymethyloxetane | 92 mmol, 13.1 g | C(C)C1(COC1)COC=C | C8H14O2
reactant | 9-BBN dimer | 60.8 mmol, 11.3 g | C12B([H]B34C5CCCC3CCC5)([H]4)C(CCC2)CCC1 | C16H30B2
reactant | 9-BBN | B1C2CCCC1CCC2 | C8H15B
reactant | 2,4-bis-biphenyl-3-yl-6-(3-bromophenyl)-1,3,5-triazine | 92 mmol, 50 g | C1(=CC(=CC=C1)C1=NC(=NC(=N1)C=1C=C(C=CC1)C1=CC=CC=C1)C1=CC(=CC=C1)Br)C1=CC=CC=C1 | C33H22BrN3
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,4-bis-biphenyl-3-yl-6-{3-[2-(3-ethyloxetan-3-yl-methoxy)ethyl]phenyl}-1,3,5-triazine | 89 mmol, 54 g, 97% | C1(=CC(=CC=C1)C1=NC(=NC(=N1)C=1C=C(C=CC1)C1=CC=CC=C1)C1=CC(=CC=C1)CCOCC1(COC1)CC)C1=CC=CC=C1 | C41H37N3O2
